* Z:\home\corey\Documents\Class\AnalogMC\PID_parallel_opamps22.asc
XU1 0 N005 +12V -12V N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 0 N013 +12V -12V N010 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 0 N017 +12V -12V N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N013 N004 250k
R3 N002 N005 500
C1 N017 N004 1000n
C3 N010 N013 0.001
R4 N016 N017 3k
V7 Vin 0 PULSE(0 3 0 5m 5m 2 10 2)
XU4 N003 N001 +12V -12V N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V6 +12V 0 12V
V8 -12V 0 -12V
L1 Vin N015 .5
R N014 N015 24
B§V_emf N014 N009 V=I(V_SENSE_2)*0.25
V_SENSE_1 N009 0 0
B§V_Torque N007 0 V=I(V_SENSE_1)*0.25
L2 N007 N008 .0125
R1 N008 N011 .005
V_SENSE_2 N011 0 0
XU6 0 N012 +12V -12V Vemf level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 Vemf N012 100K
R9 N005 N004 3k
R10 N006 N002 100K
R11 N006 N010 100K
R12 N006 N016 100K
XU7 0 N006 +12V -12V PID level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R13 PID N006 100K
.tran 15s startup
* Proportional
* Integral
* Differential
* Adder
* Adder
* Mechanical Circuit
* Electrical Circuit
* Analog PID DC Motor Control\nCorey Cochran-Lepiz\nVienna Scheyer
.param ISET 0
.lib UniversalOpamps2.sub
.backanno
.end
